US06528510B1
4-Methyl-1-(4-methyl-thiazol-5-yl)-pent-1-en-3-one
The title compound was prepared as described in General Method 1 using 1.4 g (11.0 mmol) of 4-methyl-5-thiazolecarbaldehyde (Example A-12), 6.2 g (13.1 mmol) of (3-methyl-2-oxobutyl)triphenylarsonium bromide, 1.8 g (13.1 mmol) of potassium carbonate, 75 mL of acetonitrile, and 0.75 mL of H2O. Chromatography of the residue, eluting with 3:1 hexane:EtOAc gave the title compound.

reactant | 4-methyl-5-thiazolecarbaldehyde | 11.0 mmol, 1.4 g | CC=1N=CSC1C=O | C5H5NOS
reactant | (3-methyl-2-oxobutyl)triphenylarsonium bromide | 13.1 mmol, 6.2 g | [Br-].CC(C(C[As+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C
reactant | potassium carbonate | 13.1 mmol, 1.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 75 mL | C(C)#N | C2H3N
solvent | H2O | 0.75 mL | O | H2O
product | 4-Methyl-1-(4-methyl-thiazol-5-yl)-pent-1-en-3-one | CC(C(C=CC1=C(N=CS1)C)=O)C | C10H13NOS
